US07601844B2
Step 1: 4-(4-Chlorophenyl)-3,3-dimethyl-1,2,3,6-tetrahydropyridine
A suspension of (R)-4-(4-chlorophenyl)-3,3-dimethylpiperidin-4-ol, D-(−)-Tartaric Acid (6.2 g, 15.90 mmol) in concentrated hydrochloric acid (150 mL) was refluxed for 27 hours, during which time a clear solution was observed. The solution was cooled to 0° C., which caused a white solid to precipitate, and the pH was adjusted to ˜13 with the slow, careful addition of solid sodium hydroxide. The aqueous was extracted with EtOAc (3×300 mL), the combined organic layers were washed with 1N NaOH (3×100 mL), once with brine (100 mL), then dried over sodium sulfate and concentrated in-vacuo to yield the title compound (3.46 g, 15.60 mmol, 98% yield) as a pale yellow oil. MS (ESI+)=222/224, (M+H)+.

reactant | (R)-4-(4-chlorophenyl)-3,3-dimethylpiperidin-4-ol | ClC1=CC=C(C=C1)[C@]1(C(CNCC1)(C)C)O | C13H18ClNO
reactant | D-(−)-Tartaric Acid | 15.90 mmol, 6.2 g | C([C@@H](O)[C@H](O)C(=O)O)(=O)O | C4H6O6
solvent | hydrochloric acid | 150 mL | Cl | ClH
product | 4-(4-Chlorophenyl)-3,3-dimethyl-1,2,3,6-tetrahydropyridine | 15.60 mmol, 3.46 g, 98% yield | ClC1=CC=C(C=C1)C=1C(CNCC1)(C)C | C13H16ClN
